US20010046993A1
B. 1-[4-(4-benzyl-1-piperazinyl)butyl]-2-pyrrolidinone
A mixture of 1-(4-bromobutyl)-2-pyrrolidinone (2.0 g/9.1 mmol) and benzylpiperazine (1.58 ml/9.1 mmol) in ethanol (4.5 ml) was stirred overnight at ambient temperature. The mixture was basified with 2 N NaOH and extracted with dichloromethane (50 ml×2). The combined extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography (100 g/dichloromethane=100:5-100:10) to give a pale yellow oil (1.6 g/56%).

reactant | 1-(4-bromobutyl)-2-pyrrolidinone | 9.1 mmol, 2.0 g | BrCCCCN1C(CCC1)=O | C8H14BrNO
reactant | benzylpiperazine | 9.1 mmol, 1.58 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | ethanol | 4.5 ml | C(C)O | C2H6O
product | 1-[4-(4-benzyl-1-piperazinyl)butyl]-2-pyrrolidinone | C(C1=CC=CC=C1)N1CCN(CC1)CCCCN1C(CCC1)=O | C19H29N3O
